US07790770B2
To a solution of (R)—N—((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-(2-trityl-2H-tetrazol-5-yl)ethyl)-2-methylpropane-2-sulfinamide (60 mg, 0.079 mmol) in MeOH (3 mL) was added 4 N HCl in dioxane (1 mL). The reaction mixture was stirred at room temperature for 20 min, then concentrated to yield (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-(2H-tetrazol-5-yl)ethanamine. LCMS: RT=2.66 min [M+H] 418.55 (Phenomenex Luna C18 4.6×50 mm column, eluting with 10-90% MeOH/H2O containing 0.1% TFA, 4 min gradient, flow rate 4 mL/min, wavelength 220 nm). To a solution of ((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-(2H-tetrazol-5-yl)ethanamine in THF (3 mL) and MeOH (0.5 mL) was added (diazomethyl)trimethylsilane (2.0 M in hexanes, 0.05 mL). After stirring at room temperate for 20 min, the reaction mixture was concentrated and purified by ISCO flash column chromatography (silica gel, EtOAc) to give ((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-(2-methyl-2H-tetrazol-5-yl)ethanamine (10 mg, yield: 30%). LCMS: RT=2.83 min [M+H] 432.57 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm).

reactant | (R)—N—((R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-(2-trityl-2H-tetrazol-5-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.079 mmol, 60 mg | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@@](CC=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=C(C=C1)F)N[S@](=O)C(C)(C)C | C40H35F6N5O2S
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-(2H-tetrazol-5-yl)ethanamine | FC=1C=C(C=C(C1)OC(C(F)F)(F)F)[C@](CC=1N=NNN1)(N)C1=CC=C(C=C1)F | C17H13F6N5O
